US06632810B2
Synthesis of N,N′-bis[3-(1-methyl-4,5,6-trimethoxy-indol-2-yl)propyl]homopiperazine:
2-(3-Methanesulfonyloxypropyl)-1-methyl-4,5,6-trimethoxyindole (130 mg) and homopiperazine (18 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-(3-Methanesulfonyloxypropyl)-1-methyl-4,5,6-trimethoxyindole | 130 mg | CS(=O)(=O)OCCCC=1N(C2=CC(=C(C(=C2C1)OC)OC)OC)C | C16H23NO6S
reactant | homopiperazine | 18 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[3-(1-methyl-4,5,6-trimethoxy-indol-2-yl)propyl]homopiperazine | CN1C(=CC2=C(C(=C(C=C12)OC)OC)OC)CCCN1CCN(CCC1)CCCC=1N(C2=CC(=C(C(=C2C1)OC)OC)OC)C | C35H50N4O6
